US05962479
(2-Chloro-6-methyl-3-nitro-pyridin-4-yl)-(1-ethyl-propyl)-amine
A mixture of 2,4-dichloro-6-methyl-3-nitro-pyridine (250 mg, 1.21 mmol) and 1-ethyl-propyl amine (105 mg, 1.21 mmol) in DMSO (4 ml) was stirred at room temperature for 15 hours. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentratd to give 280 mg of yellow oil. The oil was purified through silical gel column chromatography using 65% chloroform in hexane as eluent to give 110 mg (35%) of the title compound as a yellow crystal, mp 82-84° C. 1H NMR (CDCl3) δ6.57 (d, 1H), 6.46 (s, 1H), 3.39 (m, 1H), 2.42 (s, 3H), 1.4-1.8 (m, 4H), 0.94 (t, 6H) ppm

reactant | 2,4-dichloro-6-methyl-3-nitro-pyridine | 1.21 mmol, 250 mg | ClC1=NC(=CC(=C1[N+](=O)[O-])Cl)C | C6H4Cl2N2O2
reactant | 1-ethyl-propyl amine | 1.21 mmol, 105 mg | C(C)C(CC)N | C5H13N
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
product | (2-Chloro-6-methyl-3-nitro-pyridin-4-yl)-(1-ethyl-propyl)-amine | 280 mg | ClC1=NC(=CC(=C1[N+](=O)[O-])NC(CC)CC)C | C11H16ClN3O2
